US08669271B2
4-(5-Chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-[2-(5-bromo-2-chloro-pyridin-4-yl)-1-hydroxy-ethyl]-piperidine-1-carboxylic acid tert-butyl ester (11.60 g), palladium acetate (500 mg), racemic 2-(di-tert-butylphosphino)-1,1′-binapthyl (1.00 g), and cesium carbonate (14.00 g) in toluene (150 mL) is heated in an oil bath at 110° C. under an argon atmosphere for 5 h. After cooling to room temperature ethyl acetate and water are added and the organic phase is separated, washed with brine, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 70:30→50:50) to give the title compound. LC (method 7): tR=1.44 min; Mass spectrum (ESI+): m/z=339 [M+H]+.

reactant | 4-[2-(5-bromo-2-chloro-pyridin-4-yl)-1-hydroxy-ethyl]-piperidine-1-carboxylic acid tert-butyl ester | 11.60 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=CC(=NC=C1Br)Cl)O | C17H24BrClN2O3
reactant | racemic 2-(di-tert-butylphosphino)-1,1′-binapthyl | 1.00 g | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
reactant | cesium carbonate | 14.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 500 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 4-(5-Chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
